US06455548B2
Preparation of 1-t-butoxycarbonyl-4-(2-cyclopentyl-2-hydroxyethyl)piperidine
To a solution of 1.36 g (4.2 mmol) of 1-t-butoxycarbonyl-4-iodomethylpiperidine in 40 mL of ether at −78° C. was carefully added 5.8 mL (9.35 mmol) of t-butyl lithium (1.7 N on pentane). After stirring for 30 min, to the reaction mixture was added dropwise 0.95 mL (10.73 mmol) of cyclopentanone and the reaction mixture was stirred at −78° C. for 2 h. To the reaction mixture was added 5 mL of sat'd NH4Cl solution and the reaction mixture was warmed to rt. The reaction mixture was partitioned between sat'd NH4Cl solution and ether. The aqueous fraction was extracted with ether and the combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ether, 4:1) to give 0.36 g of the title compound.

reactant | 1-t-butoxycarbonyl-4-iodomethylpiperidine | 4.2 mmol, 1.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CI | C11H20INO2
reactant | t-butyl lithium | 9.35 mmol, 1.7 N, 5.8 mL | C(C)(C)(C)[Li]
reactant | cyclopentanone | 10.73 mmol, 0.95 mL | C1(CCCC1)=O | C5H8O
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
reactant | ether | 40 mL | CCOCC | C4H10O
product | 1-t-butoxycarbonyl-4-(2-cyclopentyl-2-hydroxyethyl)piperidine | 0.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(O)C1CCCC1 | C17H31NO3
